US04636504
11.18 g (40 millimoles) of 6-[p-(3-chloropropionylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone in 250 ml of ethanol were initially taken and 26.5 g (220 millimoles) of 2-phenylethylamine were added dropwise, after which the mixture was refluxed for 6 hours. Insoluble material was filtered off, the solvent was stripped off and the mother liquor was then crystallized by adding acetone. The product was recrystallized twice from methanol to give 5.3 g of 6-{p-[3-(2-phenylethylamino)-propionylamino]-phenyl}-4,5-dihydro-3(2H)-pyridazinone.HCl of melting point 269°-270° C.

reactant | 6-[p-(3-chloropropionylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 40 millimoles, 11.18 g | ClCCC(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14ClN3O2
reactant | 2-phenylethylamine | 220 millimoles, 26.5 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-{p-[3-(2-phenylethylamino)-propionylamino]-phenyl}-4,5-dihydro-3(2H)-pyridazinone | 5.3 g | C1(=CC=CC=C1)CCNCCC(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C21H24N4O2
